US07576215B2
[4-{3-[(6-METHOXYPYRIDIN-3-YL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)-METHANONE
The title compound was prepared from [4-(3-hydroxy-phenyl)-8-trifluoromethylquinolin-3-yl]-phenyl methanone and 2-Methoxy-5-pyridineboronic acid, following the procedure of Example 519: MS m/z 501.

reactant | [4-(3-hydroxy-phenyl)-8-trifluoromethylquinolin-3-yl]-phenyl methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 2-Methoxy-5-pyridineboronic acid | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
product | [4-{3-[(6-METHOXYPYRIDIN-3-YL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)-METHANONE | COC1=CC=C(C=N1)OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C29H19F3N2O3
